US09422307B2
Step 5: 3-(4-amino-2-chlorothieno[3,2-d]pyrimidin-7-yl)benzoic acid
7-Bromo-2-chlorothieno[3,2-d]pyrimidin-4-amine (500 mg, 1.90 mmol) was dissolved in dioxane (10 mL) and 2.0 N sodium carbonate (2.85 mL, 5.70 mmol) and 3-boronobenzoic acid (316 mg, 1.90 mmol) were added. Nitrogen was flown to the mixture solution for 10 minutes and then Pd2(PPh3)Cl2 (80 mg, 0.11 mmol) and t-ButylXphos (73 mg, 0.17 mmol) were added. The reaction mixture solution was stirred at 90° C. for 6 hours and then filtered with celite. The organic layer was concentrated and then 2.0 N sodium hydroxide solution was added until the pH reached 10. After extracting with ethyl acetate, the aqueous layer was adjusted to pH 5 by adding 2.0 N hydrochloric acid solution. Thus prepared white solid was filtered and dried using nitrogen gas. The resultant target compound (380 mg, 65% yield) was used in the following reaction without purification.

reactant | 7-Bromo-2-chlorothieno[3,2-d]pyrimidin-4-amine | 1.90 mmol, 500 mg | BrC1=CSC2=C1N=C(N=C2N)Cl | C6H3BrClN3S
reactant | sodium carbonate | 5.70 mmol, 2.0 N, 2.85 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-boronobenzoic acid | 1.90 mmol, 316 mg | B(O)(O)C=1C=C(C(=O)O)C=CC1 | C7H7BO4
reactant | t-ButylXphos | 0.17 mmol, 73 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC=CC=C2P(C(C)(C)C)C(C)(C)C)C(C)C | C29H45P
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-(4-amino-2-chlorothieno[3,2-d]pyrimidin-7-yl)benzoic acid | 380 mg, 65% yield | NC=1C2=C(N=C(N1)Cl)C(=CS2)C=2C=C(C(=O)O)C=CC2 | C13H8ClN3O2S
